US07560569B2
In a similar manner to Example 63, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 4-(trifluoromethyl)benzylamine (60.0 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-(4-[N-(4-trifluoromethylphenylmethyl)amino]carbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile (22.0 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 4-(trifluoromethyl)benzylamine | 60.0 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | (2S,4S)-4-fluoro-1-[[N-(4-[N-(4-trifluoromethylphenylmethyl)amino]carbonylbicyclo[2.2.2]oct-1-yl)amino]acetyl]pyrrolidine-2-carbonitrile | 22.0 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NCC2=CC=C(C=C2)C(F)(F)F)=O)C#N | C24H28F4N4O2
